US05206240
Step C: Preparation of 1,3-Dihydro-6-nitro-1-oxo-1'-[2-(2-pyridyl)-1-ethyl]spiro[2H-indene-2,4'-piperidine]
A solution of 0.150 g (0.53 mmole) 1,3-dihydro-6-nitro-1-oxospiro[2H-indene-2,4'-piperidine] hydrochloride, 0.116 g (1.1 mmoles) 2-vinylpyridine, and 0.090 g (1.1 mmoles) sodium acetate in 1.5 ml of 1:1 methanol: water was heated at reflux for 8 hours. Ethanol was removed in vacuo. The aqueous residue was diluted with 3 ml saturated sodium bicarbonate solution and extracted with 2×10 ml ethyl acetate. The combined extracts were washed with 3 ml water brine, dried, and the solvent was removed in vacuo to give 0.195 g crude product. This was recrystallized from ethyl acetate to give 0.123 g (66%) product, m.p. 142°-144° C.

reactant | 1,3-dihydro-6-nitro-1-oxospiro[2H-indene-2,4'-piperidine] hydrochloride | 0.53 mmole, 0.150 g | Cl.[N+](=O)([O-])C1=CC=C2CC3(CCNCC3)C(C2=C1)=O
reactant | 2-vinylpyridine | 1.1 mmoles, 0.116 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium acetate | 1.1 mmoles, 0.090 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 1.5 ml | CO | CH4O
product | 1,3-Dihydro-6-nitro-1-oxo-1'-[2-(2-pyridyl)-1-ethyl]spiro[2H-indene-2,4'-piperidine] | 0.123 g, 66% | [N+](=O)([O-])C1=CC=C2CC3(CCN(CC3)CCC3=NC=CC=C3)C(C2=C1)=O | C20H21N3O3
